US03966760
A. 6-Nitroveratrylidenecyclohexylamine
A suspension of 42.2 g (0.2 mole) of 6-nitroveratraldehyde, 19.8 g (0.2 mole) cyclohexylamine, 1.0 ml. glacial acetic acid, and 1.25 l. ethanol was stirred and refluxed for five min., cooled, and filtered. The solid was washed with 100 ml. cold ethanol and air dried to give 47.0 g (80%) of the product, m.p. 160°-161°.

reactant | 6-nitroveratraldehyde | 0.2 mole, 42.2 g | [N+](=O)([O-])C1=CC(=C(C=C1C=O)OC)OC | C9H9NO5
reactant | cyclohexylamine | 0.2 mole, 19.8 g | C1(CCCCC1)N | C6H13N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 6-Nitroveratrylidenecyclohexylamine | 47.0 g, 80% | [N+](=O)([O-])C1=CC(=C(C=C1C=NC1CCCCC1)OC)OC | C15H20N2O4
